Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
elevated BP
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yr G4P1 at 35 and ___ weeks GA who presents with known 
gestational HTN who reports DFM today and increasing edema in 
ankles and hands. She also reports mild bausea bu tno emesis no 
ruq pain, no headaches

Pt with elevated BP in office on ___ and labs nl except 
plts=130.PIH eval done on ___ again nl labs but Bp's elevated 
to to 140-150/80/90..pt sent home with 24 hr urine collection 
and still collecting to be finished ___ at 9:30AM

 
Past Medical History:
OBHX-
SAB at 15 weeks
TAbx1
ectopic x1
SVD at 41 weeks 7#13

PMH: uti
psH:
laparoscopic salpingectomy for ectopic
laparoscopic cholecystectomy

 
Social History:
Denies T/E/D
 
Physical Exam:
On admission by Dr. ___ 140--+ accels no decles but technically not reactive
___ NL AFI--BACK UP RANSVERSE LIE head maternal left
BP: 150/100, 141/72, 157/91, 144/85, 144/79
Chest-dta
card rrr
abdomen soft,nt, nd s=d
ext 4+ ___ pitting edema

 
Pertinent Results:
___ 05:48PM BLOOD WBC-5.5 RBC-4.08* Hgb-13.4 Hct-37.5 
MCV-92 MCH-32.8* MCHC-35.7* RDW-13.2 Plt ___
___ 10:01AM BLOOD WBC-8.3 RBC-4.26 Hgb-13.9 Hct-39.1 MCV-92 
MCH-32.6* MCHC-35.5* RDW-13.3 Plt ___
___ 05:48PM BLOOD Creat-0.5
___ 10:01AM BLOOD Creat-0.4
___ 05:48PM BLOOD ALT-9 AST-20
___ 05:48PM BLOOD UricAcd-6.1*
___ 10:01AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:43AM URINE pH-6 Hours-24 Volume-800 Creat-207 
TotProt-37 Prot/Cr-0.2
___ 10:01AM URINE Hours-RANDOM Creat-184 TotProt-29 
Prot/Cr-0.2
___ 08:43AM URINE 24Creat-1656 24Prot-296
 
Brief Hospital Course:
Ms. ___ was admitted to the antepartum service for 
pre-eclampsia evaluation. She had normal labs with negative 24 
hour urine and her blood pressures remained in the mild range, 
consistent with gestational hypertension. Fetal testing was 
reassuring. She was discharged home on ___ with close 
follow-up. 
 
Medications on Admission:
PNV
 
Discharge Medications:
PNV
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
IUP 35weeks
Gestational hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
See precautions  
 
Followup Instructions:
___